US04521422
A 29 g portion of N-(3-acetylphenyl)-4-methylbenzenesulfonamide was dissolved in 250 ml of dimethylformamide with stirring. This mixture was treated with 6.5 g of sodium methoxide and stirred for 30 minutes, then 20 g of ethyl iodide was added. This mixture was stirred at room temperature for one hour, then at reflux for 5 hours. The dimethylformamide was removed in vacuo, the residue shaken with 150 ml of water, the mixture adjusted to pH 4 with 10N sodium hydroxide and then cooled to 0° C. The precipitate was collected, washed twice with water and then air dried, giving 31.5 g of N-(3-acetylphenyl)-N-ethyl-4-methylbenzenesulfonamide.

reactant | N-(3-acetylphenyl)-4-methylbenzenesulfonamide | C(C)(=O)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C15H15NO3S
reactant | sodium methoxide | 6.5 g | C[O-].[Na+]
reactant | ethyl iodide | 20 g | C(C)I | C2H5I
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | N-(3-acetylphenyl)-N-ethyl-4-methylbenzenesulfonamide | 31.5 g | C(C)(=O)C=1C=C(C=CC1)N(S(=O)(=O)C1=CC=C(C=C1)C)CC | C17H19NO3S
